US07842685B2
Sodium hydride (60% w/w in mineral oil) (3.7 mg, 93 μmol) was added to a mixture of 2-(2,4-difluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (28.2 mg, 77 μmol) and pyrrolidin-2-one (5.9 μl, 77 μmol) in DMF (0.8 mL) and the resulting mixture was stirred at 25° C. for 30 min, then heated at 40° C. for 15 h. Additional pyrrolidin-2-one (5.9 μl, 77 μmol) and sodium hydride (60% w/w in mineral oil) (3.7 mg, 93 μmol) were then added, and the resulting mixture was heated at 60° C. for 1 h. The reaction mixture was then cooled to 25° C. and partitioned between EtOAc (70 mL) and sat. aq. ammonium chloride (30 mL). The organic layer was separated and sequentially washed with water and brine, then dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-100% EtOAc-Hexanes) provided 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)butanoic acid as a light yellow solid. MS (ESI) m/z: Calculated: 447.1; Observed: 448.2 (M++1).

reactant | Sodium hydride | 93 μmol, 3.7 mg | [H-].[Na+]
reactant | 2-(2,4-difluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 77 μmol, 28.2 mg | FC1=C(C=CC(=C1)F)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C21H14F2N2S
reactant | pyrrolidin-2-one | 77 μmol, 5.9 μl | N1C(CCC1)=O | C4H7NO
reactant | pyrrolidin-2-one | 77 μmol, 5.9 μl | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 93 μmol, 3.7 mg | [H-].[Na+]
reactant | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)butanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NCCCC(=O)O | C25H22FN3O2S
